US09216999B2
1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one
5-(Aminomethyl)-N-(1-benzylpiperidin-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine (38 mg, 0.081 mmol) in dichloromethane was stirred with 1,1′-carbonyldiimidazole (20.0 mg, 0.123 mmol) at 80° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and, after addition of water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=10/1 (v/v)) to give the title compound (30.9 mg, yield 77%).

reactant | 5-(Aminomethyl)-N-(1-benzylpiperidin-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.081 mmol, 38 mg | NCC1=C(C2=C(N=C1)N(C=C2)COCC[Si](C)(C)C)NC2CCN(CC2)CC2=CC=CC=C2 | C26H39N5OSi
reactant | 1,1′-carbonyldiimidazole | 0.123 mmol, 20.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 30.9 mg, yield 77% | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NCC2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C27H37N5O2Si
